US07728025B2
(Step 2) Production of 6-(1-acetyl-3-fluoropyrrolidin-2-yl)-5-((2′-fluorobiphenyl-4-yl)oxy)-2-pyridin-2-yl-1H-benzimidazole enantiomer A
The entitled compound was obtained in the same method as in Example 338 (step 5) or in accordance with the method or by combining it with an ordinary method but using N-(4-(1-acetyl-3-fluoropyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyridin-2-carboxamide enantiomer A and 2′-fluorobiphenyl-4-ol.

reactant | N-(4-(1-acetyl-3-fluoropyrrolidin-2-yl)-5-fluoro-2-nitrophenyl)pyridin-2-carboxamide | C(C)(=O)N1C(C(CC1)F)C1=CC(=C(C=C1F)NC(=O)C1=NC=CC=C1)[N+](=O)[O-] | C18H16F2N4O4
reactant | 2′-fluorobiphenyl-4-ol | FC1=C(C=CC=C1)C1=CC=C(C=C1)O | C12H9FO
product | 6-(1-acetyl-3-fluoropyrrolidin-2-yl)-5-((2′-fluorobiphenyl-4-yl)oxy)-2-pyridin-2-yl-1H-benzimidazole | C(C)(=O)N1C(C(CC1)F)C=1C(=CC2=C(NC(=N2)C2=NC=CC=C2)C1)OC1=CC=C(C=C1)C1=C(C=CC=C1)F | C30H24F2N4O2
